US09371331B2
Step 2: 2-methyl-1-(3-methylbutanoyl)-1H-indole-3-carboxylic acid
To a solution of tert-butyl 2-methyl-1-(3-methylbutanoyl)-1H-indole-3-carboxylate (200 mg, 634.10 μmol) in dichloromethane (5 mL) was added trifluoroacetic acid (5 mL). The mixture was stirred at room temperature (25° C.) for 1 hour. The mixture was evaporated and partitioned between dichloromethane and water. The aqueous layer was washed with dichloromethane (10 mL×2), combined the organic layers, dried over sodium sulfate, then filtered and concentrated in vacuum afford the title compound (30 mg, yield: 89%).

reactant | tert-butyl 2-methyl-1-(3-methylbutanoyl)-1H-indole-3-carboxylate | 634.10 μmol, 200 mg | CC=1N(C2=CC=CC=C2C1C(=O)OC(C)(C)C)C(CC(C)C)=O | C19H25NO3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-methyl-1-(3-methylbutanoyl)-1H-indole-3-carboxylic acid | 30 mg, yield: 89% | CC=1N(C2=CC=CC=C2C1C(=O)O)C(CC(C)C)=O | C15H17NO3
